US05204086
5-Acetamido N,N'-bis(1,3-dihydroxy-2-propyl)-2,4,6-triiodoisophthalamide
5-Amino-N,N'-bis(1,3-dihydroxy-2-propyl)-2,4,6-triiodoisophthalamide (300 g) was suspended in acetic anhydride (1.5 1) at 90° (in an oil bath) and then p-toluenesulphonic acid (3 g) was added. The mixture was heated for 41/2 hours and then cooled slowly to room temperature. The product was collected on a filter and washed with small amounts of acetic anhydride. Yield: 353 g. The product was suspended in a mixture of methanol (600 ml) and water (300 ml) at room temperature and the pH was adjusted to about 11.5 by adding 5N sodium hydroxide (200 ml). This mixture was heated at 50° C. and more 5 N sodium hydroxide (235 ml) was added dropwise in such a manner that the pH was kept at about 10.5. After 2-3 hours the pH did not decrease, and the hydrolysis was completed. After cooling to room temperature the mixture was acidified with 6 N hydrochloric acid to about pH 6. After stirring for two hours at room temperature, the mixture was cooled to 3° for 2-3 days. The product was collected on a filter, suspended in water (500 ml) and filtered again. Yield: 257 g. Melting point: above 270°. (Found: C 25.68; H 2.85; I 51.0; N 6.03. Calc. for C16H20I3N3O7 : C 25.72;H 2.70; I 50.96; N 5.62) TLC (precoated TLC Plates Silica Gel 60 F-254 from Merck A.G. and developed in CHCl3 : MeOH=70:30) showed one spot with Rf value 0.38.

reactant | 5-Amino-N,N'-bis(1,3-dihydroxy-2-propyl)-2,4,6-triiodoisophthalamide | 300 g | NC=1C(=C(C(=C(C(=O)NC(CO)CO)C1I)I)C(=O)NC(CO)CO)I | C14H18I3N3O6
reactant | p-toluenesulphonic acid | 3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 5-Acetamido N,N'-bis(1,3-dihydroxy-2-propyl)-2,4,6-triiodoisophthalamide | C(C)(=O)NC=1C(=C(C(=C(C(=O)NC(CO)CO)C1I)I)C(=O)NC(CO)CO)I | C16H20I3N3O7
